US06599902B2
Synthesis of 2-{5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-N-[2-(4-fluoro-piperidin-1-yl)-ethyl]-acetamide
To a mixture of {5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-acetic acid (156 mg, 0.3 mmol), triethylamine (0.084 mL, 0.6 mmol) and BOP reagent (199 mg, 0.45 mmol) in DMF (0.5 mL) was added 2-(4-fluoro-piperidin-1-yl)-ethylamine (48 mg, 0.32 mmol) in DMF (0.5 mL). The mixture was stirred at rt for overnight. After the usual workup, the residue was purified on a silica gel column to give 110 mg (57%) of the titled compound. MS m/z 645 [M−1].

reactant | {5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-acetic acid | 0.3 mmol, 156 mg | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)CC(=O)O)C | C24H20Cl2N2O5S
reactant | triethylamine | 0.6 mmol, 0.084 mL | C(C)N(CC)CC | C6H15N
reactant | BOP reagent | 0.45 mmol, 199 mg | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-(4-fluoro-piperidin-1-yl)-ethylamine | 0.32 mmol, 48 mg | FC1CCN(CC1)CCN | C7H15FN2
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 2-{5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-N-[2-(4-fluoro-piperidin-1-yl)-ethyl]-acetamide | 110 mg, 57% | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)CC(=O)NCCN1CCC(CC1)F)C | C31H33Cl2FN4O4S
